US07981893B2
SYNTHESIS OF 6-(4-HYDROXYPHENYL)-1-(PYRROLIDIN-2-YLMETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE
6-(4-Hydroxyphenyl)-1-(pyrrolidin-2-ylmethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride. tert-Butyl 2-((6-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-1-yl)methyl)pyrrolidine-1-carboxylate (0.21 g., 0.52 mmol) was dissolved in 1,4-dioxane (3 mL), 1M hydrochloric acid in 1,4-dioxane (1 mL) was added and the mixture was stirred at rt for 48 h. The solvent was removed, the resulting residue was triturated with methanol and filtered to yield the title compound (0.11 g., 61% yield). 1H NMR (400 MHz, DMSO-d6) δ 12.09 (s, 1H), 9.768 (s, 1H), 9.4 (bs, 1H), 8.68 (bs, 1H), 8.415 (s, 1H), 7.906 (d, J=8.8, 2H), 6.873 (d, J=8.8, 2H), 4.19 (d, J=6.8, 2H), 3.89 (m, 1H), 3.30 (m, 1H), 3.13 (m, 1H), 2.14 (m, 1H), 1.97 (m, 2H), 1.79 (m, 1H); MS (ESI) m/z 312.1[M+1]+; mp 178-180° C.

reactant | 6-(4-Hydroxyphenyl)-1-(pyrrolidin-2-ylmethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride | Cl.OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2NCCC2
reactant | tert-Butyl 2-((6-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-1-yl)methyl)pyrrolidine-1-carboxylate | 0.52 mmol, 0.21 g | OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2N(CCC2)C(=O)OC(C)(C)C | C21H25N5O4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-(4-HYDROXYPHENYL)-1-(PYRROLIDIN-2-YLMETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE | 0.11 g, 61% yield | OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2NCCC2 | C16H17N5O2
